US07939519B2
To a solution of 3-amino-propionic acid tert-butyl ester hydrochloride (1.5 eq) in DMF is added NaH (3.5 eq). The resulting mixture is stirred at room temperature for 15 minutes and a solution of 1-(5-bromomethyl-6-chloro-pyridin-2-yl)-ethanone (1 eq) in DMF is then added. After stirring for 3 hours, it is partitioned with 20% EtOAc/hexane and H2O. The organic layer is washed with brine and dried. After concentration, 3-[(6-acetyl-2-chloro-pyridin-3-ylmethyl)-amino]-propionic acid tert-butyl ester is isolated by flash column chromatography. MS: (ES+): 313.1 (M+1)+.

reactant | 3-amino-propionic acid tert-butyl ester hydrochloride | 1.5 eq | Cl.C(C)(C)(C)OC(CCN)=O
reactant | NaH | 3.5 eq | [H-].[Na+]
reactant | 1-(5-bromomethyl-6-chloro-pyridin-2-yl)-ethanone | 1 eq | BrCC=1C=CC(=NC1Cl)C(C)=O | C8H7BrClNO
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[(6-acetyl-2-chloro-pyridin-3-ylmethyl)-amino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCNCC=1C(=NC(=CC1)C(C)=O)Cl)=O | C15H21ClN2O3
